US08030497B2
a) 5-Bromo-3-methoxy-benzene-1,2-diamine
A solution of 2.0 g (8.1 mmol) 4-Bromo-2-methoxy-6-nitro-phenylamine [Zhou, Q-T., et al. Huaxue Xuebao 1980, 38(5), 507-10] in 50 ml methanol/water (2:1) is hydrogenated in the presence of 200 mg Pt/C (Engelhard 4709) at normal pressure for 3 h. Then the catalyst is filtered off and the filtrate is concentrated in vacuo to afford 1.5 g of the title compound as an oil.

reactant | 4-Bromo-2-methoxy-6-nitro-phenylamine | 8.1 mmol, 2.0 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])N)OC | C7H7BrN2O3
solvent | methanol water | 50 ml | CO.O
catalyst | Pt/C | 200 mg | [Pt] | Pt
product | 5-Bromo-3-methoxy-benzene-1,2-diamine | 1.5 g | BrC1=CC(=C(C(=C1)N)N)OC | C7H9BrN2O
